US04595700
4-Methyl-2-(diethylphosphono)pentanoic acid methyl ester (28 g, 0.1M) prepared as in Example (1) in dry tetrahydrofuran (200 ml) was stirred under nitrogen whilst sodium hydride (2.2 g, 80% dispersion in oil; 0.11M) was added portion wise at 23° C. The reaction was stirred for 30 minutes and isobutyraldehyde (72 g, 1M) added with cooling to maintain the temperature below 30° C. The reaction was stirred for 16 h at 20° C. and water (20 ml) added. The organic phase was diluted with ether and then washed successively with aqueous sodium hydrogen carbonate, water and aqueous citric acid (1M), dried over sodium sulphate and concentrated in vacuo. Vacuum distillation of the resulting oil afforded E and Z 2-(2-methylpropyl)-4-methyl-pent-2-enoic acid methyl ester (12.5 g) b.p. 60°-70° C. at 0.5 mm Hg as a colourless oil δ(CDCl3) 0.86 and 0.88 (6H, each d, each J=7 Hz CH2CH(CH3)2); 1.0-1.02 (6H, each d, each J=7 Hz, CHCH(CH3)2); 1.6-1.85 (1H, m, CH2CH) 2.1 and 2.2 (2H, each d, each J=7 Hz, CH2) 2.55 and 2.75 (1H, each m, C=CHCH); 3.74 (3H, s, OCH3); 5.58 and 6.59 (1H, each d, each J=9 Hz, C=CH).

reactant | 4-Methyl-2-(diethylphosphono)pentanoic acid methyl ester | 0.1M, 28 g | COC(C(CC(C)C)P(=O)(OCC)OCC)=O | C11H23O5P
reactant | sodium hydride | 0.11M, 2.2 g | [H-].[Na+]
reactant | isobutyraldehyde | 1M, 72 g | C(C(C)C)=O | C4H8O
reactant | water | 20 ml | O | H2O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 2-(2-methylpropyl)-4-methyl-pent-2-enoic acid methyl ester | 12.5 g | COC(C(=CC(C)C)CC(C)C)=O | C11H20O2
